US07446226B2
2-(5-chloropentyloxy)tetrahydro-2H-pyrane (10)
5-chloro-1-pentanol (12.26 g, 0.1 mol) was dissolved in dry dichloromethane (400 mL). 3,4-Dihydro-2H-pyrane (12.62 g, 0.15 mol) and pyridine toluene-4-sulphonate (1.26 g, 5 mmol) was then added and the reaction mixture was stirred magnetically in a nitrogen atmosphere at room temperature over night. Sodium-hydrogen-carbonate, saturated solution (150 mL) was added and the phases were separated. The aqueous phase was then extracted with dichloromethane (4×25 mL). The combined dichloromethane phases were washed with water (2×20 mL) and then dried (MgSO4). Dichloromethane was then distilled out on a rotary evaporator and yielded 19.6 g (95%) of a pale yellow oil. NMR indicated a pure product.

reactant | 5-chloro-1-pentanol | 0.1 mol, 12.26 g | ClCCCCCO | C5H11ClO
reactant | 3,4-Dihydro-2H-pyrane | 0.15 mol, 12.62 g | O1CCCC=C1 | C5H8O
reactant | Sodium hydrogen-carbonate | [Na].C(O)([O-])=O
solvent | dichloromethane | 400 mL | ClCCl | CH2Cl2
catalyst | pyridine toluene-4-sulphonate | 5 mmol, 1.26 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.N1=CC=CC=C1
product | 2-(5-chloropentyloxy)tetrahydro-2H-pyrane | 19.6 g, 95% | ClCCCCCOC1OCCCC1 | C10H19ClO2
